US08802659B2
1-[2-(trans-4-tert-Butyl-cyclohexyloxy)-quinolin-6-ylmethyl]-azetidine-3-carboxylic acid methyl ester
Synthesized as per 1-[6-(trans-4-tert-Butyl-cyclohexyloxy)-4-trifluoromethyl-quinolin-2-ylmethyl]-azetidine-3-carboxylic acid methyl ester using 2-(trans-4-tert-Butyl-cyclohexyloxy)-quinoline-6-carbaldehyde as starting material. ESI-MS (M+H+): 411.30.

reactant | 1-[6-(trans-4-tert-Butyl-cyclohexyloxy)-4-trifluoromethyl-quinolin-2-ylmethyl]-azetidine-3-carboxylic acid methyl ester | COC(=O)C1CN(C1)CC1=NC2=CC=C(C=C2C(=C1)C(F)(F)F)O[C@@H]1CC[C@H](CC1)C(C)(C)C | C26H33F3N2O3
reactant | 2-(trans-4-tert-Butyl-cyclohexyloxy)-quinoline-6-carbaldehyde | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC1=NC2=CC=C(C=C2C=C1)C=O | C20H25NO2
product | 1-[2-(trans-4-tert-Butyl-cyclohexyloxy)-quinolin-6-ylmethyl]-azetidine-3-carboxylic acid methyl ester | COC(=O)C1CN(C1)CC=1C=C2C=CC(=NC2=CC1)O[C@@H]1CC[C@H](CC1)C(C)(C)C | C25H34N2O3
